### PR TITLE
[Merged by Bors] - feat: the cohomology of a presheaf of groups in degree 1

### PR DESCRIPTION
**Pull request by joelriou**
This PR defines a type `OneCohomology G U` when `G : Cᵒᵖ ⥤ GroupCat` and `U : I → C`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 1]
```diff
@@ -0,0 +1,206 @@
...
+
+namespace CategoryTheory
+
+variable {C : Type u} [Category.{v} C]
+
+namespace PresheafOfGroups
+
+variable (G : Cᵒᵖ ⥤ GroupCat.{w}) {X : C} {I : Type w'} (U : I → C)
+
+/-- A zero cochain consist of a family of sections. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:46]:
```suggestion
/-- A zero cochain consists of a family of sections. -/
```

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 2]
```diff
@@ -0,0 +1,206 @@
...
+
+instance : Group (Cochain₁ G U) where
+  mul_assoc _ _ _ := by ext; apply mul_assoc
+  one_mul _ := by ext; apply one_mul
+  mul_one _ := by ext; apply mul_one
+  mul_left_inv _ := by ext; apply mul_left_inv
+
+end Cochain₁
+
+/-- A 1-cocycle is a 1-cochain which satisfies a cocycle condition. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:113]: I think maybe "satisfies the cocycle condition" or "satisfies a certain cocycle condition" is better -- right now the docstring can be misinterpreted as meaning "it satisfies any kind of condition".

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 3]
```diff
@@ -0,0 +1,206 @@
...
+/-! The cohomology of a sheaf of groups in degree 1
+
+In this file, we shall define the cohomology in degree 1 of a sheaf
+of groups (TODO).
+
+Currently, given a presheaf of groups `G : Cᵒᵖ ⥤ GroupCat` and a family
+of objects `U : I → C`, we define 1-cochains/1-cocycles with values
+in `G` over `U`. (This definition neither requires the assumption that `G`
+is a sheaf, nor that `U` covers the terminal object.)
+
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:17]: Maybe it is worth adding some comment of the form "because we do not assume that the values of G are abelian, there is no general cohomology theory H^n, which is why we are only making definitions in low degree in this file".

**Review by kbuzzard — APPROVED** [review]
This looks fine to me. I just have some superficial comments about docstrings then this seems ready to merge.

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 4]
```diff
@@ -0,0 +1,206 @@
...
+instance : Group (Cochain₁ G U) where
+  mul_assoc _ _ _ := by ext; apply mul_assoc
+  one_mul _ := by ext; apply one_mul
+  mul_one _ := by ext; apply mul_one
+  mul_left_inv _ := by ext; apply mul_left_inv
+
+end Cochain₁
+
+/-- A 1-cocycle is a 1-cochain which satisfies a cocycle condition. -/
+structure Cocycle₁ extends Cochain₁ G U where
```
Comment (101damnations) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:114]: Not really a concrete suggestion, but currently this file differs a little from the naming conventions in `Mathlib.RepresentationTheory.GroupCohomology.LowDegree`, where e.g. 1-cocycles are called `oneCocycles`. Maybe we should find some way to stay consistent. I'd be fine with changing my naming conventions if that helps; the subscripts you use look nice.

**Comment by joelriou** [comment]
Thanks @kbuzzard and @101damnations for your suggestions.

In order to be more consistent with group cohomology, I have renamed the definitions. They are now `ZeroCochain`, etc. The difference is that I define a type `OneCycle`, where as in group cohomology there is a term `oneCocycles` in a `Submodule` type.

**Comment by kbuzzard** [comment]
Can we add a reference to the literature for 1-cochains and 1-cocycles? I was just checking this over and realised that I didn't know one.

**Comment by joelriou** [comment]
I have added a reference to http://www.numdam.org/item/10.24033/bsmf.1485.pdf (this is in French though!).

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 5]
```diff
@@ -0,0 +1,213 @@
...
+namespace PresheafOfGroups
+
+variable (G : Cᵒᵖ ⥤ GroupCat.{w}) {X : C} {I : Type w'} (U : I → C)
+
+/-- A zero cochain consists of a family of sections. -/
+def ZeroCochain := ∀ (i : I), G.obj (Opposite.op (U i))
+
+instance : Group (ZeroCochain G U) := by
+  dsimp [ZeroCochain]
+  infer_instance
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:58]:
```suggestion
instance : Group (ZeroCochain G U) := Pi.group
```
I don't really know how much difference this makes. If you look at the term you generate with your proof (by naming it and then using `#print`), there's a random `id` in there presumably because you entered tactic mode or something. With my proof there's no `id` but on the other hand I don't know if this matters

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 6]
```diff
@@ -0,0 +1,213 @@
...
+  ev (i j : I) ⦃T : C⦄ (a : T ⟶ U i) (b : T ⟶ U j) : G.obj (Opposite.op T)
+  ev_precomp (i j : I) ⦃T T' : C⦄ (φ : T ⟶ T') (a : T' ⟶ U i) (b : T' ⟶ U j) :
+    G.map φ.op (ev i j a b) = ev i j (φ ≫ a) (φ ≫ b) := by aesop
+
+namespace OneCochain
+
+attribute [simp] OneCochain.ev_precomp
+
+instance : One (OneCochain G U) where
+  one := { ev := fun _ _ _ _ _ => 1 }
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:90]:
```suggestion
  one := { ev := fun _ _ _ _ _ ↦ 1 }
```
I thought mathlib preferred `mapsto`. Do you not like it? I don't really know the style here, maybe both are fine?

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 7]
```diff
@@ -0,0 +1,213 @@
...
+@[simp]
+lemma mul_ev (γ₁ γ₂ : OneCochain G U) (i j : I) {T : C} (a : T ⟶ U i) (b : T ⟶ U j) :
+    (γ₁ * γ₂).ev i j a b = γ₁.ev i j a b * γ₂.ev i j a b := rfl
+
+instance : Inv (OneCochain G U) where
+  inv γ := { ev := fun i j T a b => (γ.ev i j a b) ⁻¹}
+
+@[simp]
+lemma inv_ev (γ : OneCochain G U) (i j : I) {T : C} (a : T ⟶ U i) (b : T ⟶ U j) :
+    (γ ⁻¹).ev i j a b = (γ.ev i j a b) ⁻¹ := rfl
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:110]:
```suggestion
    (γ⁻¹).ev i j a b = (γ.ev i j a b)⁻¹ := rfl
```
Again I don't know the canonical style but I don't put these spaces in myself. If you want to leave them, and you know this is OK style, that's fine.

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 8]
```diff
@@ -0,0 +1,213 @@
...
+@[simp]
+lemma one_toOneCochain : (1 : OneCocycle G U).toOneCochain = 1 := rfl
+
+@[simp]
+lemma ev_refl (γ : OneCocycle G U) (i : I) ⦃T : C⦄ (a : T ⟶ U i) :
+    γ.ev i i a a = 1 := by
+  simpa using γ.ev_trans i i i a a a
+
+lemma ev_symm (γ : OneCocycle G U) (i j : I) ⦃T : C⦄ (a : T ⟶ U i) (b : T ⟶ U j) :
+    γ.ev i j a b = (γ.ev j i b a) ⁻¹ := by
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:139]:
```suggestion
    γ.ev i j a b = (γ.ev j i b a)⁻¹ := by
```
Again, if a space is OK and you want it, that's fine by me.

File: Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean [hunk 9]
```diff
@@ -0,0 +1,213 @@
...
+
+/-- The assertion that two cochains in `OneCochain G U` are cohomologous via
+an explicit zero-cochain. -/
+def OneCohomologyRelation (γ₁ γ₂ : OneCochain G U) (α : ZeroCochain G U) : Prop :=
+  ∀ (i j : I) ⦃T : C⦄ (a : T ⟶ U i) (b : T ⟶ U j),
+    G.map a.op (α i) * γ₁.ev i j a b = γ₂.ev i j a b * G.map b.op (α j)
+
+namespace OneCohomologyRelation
+
+lemma refl (γ : OneCochain G U) : OneCohomologyRelation γ γ 1 := fun _ _ _ _ _ => by simp
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Sites/NonabelianCohomology/H1.lean:155]:
```suggestion
lemma refl (γ : OneCochain G U) : OneCohomologyRelation γ γ 1 := fun _ _ _ _ _ ↦ by simp
```
and similarly symm, trans (if `=>` is not mathlib style...)

**Review by kbuzzard — APPROVED** [review]
Thanks for the reference; it doesn't do things in this generality but I've seen enough of this sort of thing now to know that it might be hard to find a reference which does! I left some more superficial comments but you've convinced me that mathematically these are the right definitions.

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
